US06982348B2
To a solution of ethyl 3-(4-methoxyphenyl)-3-oxopropionate (20 g, 84.6 mmol) in acetonitrile (200 ml) were added 4-trifluoromethylbenzyl bromide (20.2 g, 84.6 mmol) and potassium carbonate (23.4 g, 169 mmol) and the mixture was stirred at 60° C. for 2 hrs. The reaction solution was evaporated under reduced pressure, diluted with water (500 ml) and extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene:hexane=1:1-toluene) to give ethyl 3-(4-methoxyphenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (19.2 g, 56%) as a colorless oil.

reactant | ethyl 3-(4-methoxyphenyl)-3-oxopropionate | 84.6 mmol, 20 g | COC1=CC=C(C=C1)C(CC(=O)OCC)=O | C12H14O4
reactant | 4-trifluoromethylbenzyl bromide | 84.6 mmol, 20.2 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | potassium carbonate | 169 mmol, 23.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | ethyl 3-(4-methoxyphenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 19.2 g, 56% | COC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C20H19F3O4
